US07598240B2
Glycine tert-butyl ester hydrochloride (2.03 g) and dicyclohexylcarbodiimide (DCC) (2.5 g) were added to a solution of (2S)-2-{[2-bromo-4-(ethoxycarbonyl)phenyl]thio}-5-(4-methoxyphenyl)pentanoic acid (the compound of Reference Example 8) (96% e.e.) in dichloromethane (56.4 ml) at −5° C., and N-methylmorpholine (1.26 ml) was added dropwise thereto. After stirring at the same temperature for 1.5 hours, water was added thereto and the resulting mixture was filtered through Celite. The filtrate was extracted with chloroform and the extract solution was washed with a saturated aqueous ammonium chloride solution and a saturated aqueous sodium chloride solution and then dried over anhydrous sodium sulfate. The drying agent was removed by filtration and the solvent was distilled off under reduced pressure. The residue was purified by a silica gel column chromatography (hexane/ethyl acetate=3/1) to obtain ethyl 3-bromo-4-({(1S)-4-(4-methoxyphenyl)-1-[(tert-butoxycarbonylmethylamino)carbonyl]butyl}thio)benzoate (4.83 g, 98% e.e.). The optical purity analysis conditions are as follows. [Optical purity analysis conditions: column=AD-H (Chiralcel, DAICEL Chemical Industries Ltd.); detecting wavelength (UV)=254 nm; flow rate: 1.0 ml/min; mobile phase=n-hexane/isopropyl alcohol/TFA (90/10/0.1)]

reactant | Glycine tert-butyl ester hydrochloride | 2.03 g | Cl.C(C)(C)(C)OC(CN)=O
reactant | dicyclohexylcarbodiimide | 2.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (2S)-2-{[2-bromo-4-(ethoxycarbonyl)phenyl]thio}-5-(4-methoxyphenyl)pentanoic acid | BrC1=C(C=CC(=C1)C(=O)OCC)S[C@H](C(=O)O)CCCC1=CC=C(C=C1)OC | C21H23BrO5S
reactant | N-methylmorpholine | 1.26 ml | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 56.4 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | ethyl 3-bromo-4-({(1S)-4-(4-methoxyphenyl)-1-[(tert-butoxycarbonylmethylamino)carbonyl]butyl}thio)benzoate | 4.83 g | BrC=1C=C(C(=O)OCC)C=CC1S[C@@H](CCCC1=CC=C(C=C1)OC)C(=O)NCC(=O)OC(C)(C)C | C27H34BrNO6S
